US07838675B2
i) 4-chloro-2-[(2,3-difluorobenzyl)thio]-6-{(1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethoxy}pyrimidine
The subtitle compound was prepared according to the procedure outlined in example 1 step (iii) using (1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethanol (prepared according to Liebigs Ann. Chem. 1987, 7-14) (0.25 g) and 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step ii) (0.53 g) in THF (20 mL) and 60% sodium hydride (80 mg). Crude material was purified by column chromatography on silica gel using EtOAc/isohexane (1:3) as eluent to give the subtitle compound as a clear, colourless oil. Yield: 0.37 g.

reactant | (1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethanol | 0.25 g | CC1(OC[C@H](O1)[C@@H](C)O)C | C7H14O3
reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | sodium hydride | 80 mg | [H-].[Na+]
product | 4-chloro-2-[(2,3-difluorobenzyl)thio]-6-{(1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethoxy}pyrimidine | ClC1=NC(=NC(=C1)O[C@H](C)[C@H]1OC(OC1)(C)C)SCC1=C(C(=CC=C1)F)F | C18H19ClF2N2O3S
